US07786108B2
Step 2. Preparation of (+/−)-Isopropyl 5-[(3,5-bistrifluoromethylbenzyl)-(3-methylisothiazol-5-yl)amino]-7-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Add sodium hydride to a stirring solution of isopropyl 7-bromo-5-(3-methylisothiazol-5-ylamino)-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate in anhydrous tetrahydrofuran at room temperature under nitrogen. After the appropriate stirring time, treat the mixture with 3,5-bis(trifluoromethyl)benzyl bromide and continue stirring for an appropriate time. Dilute the mixture with ethyl acetate, wash with water and brine and dry over sodium sulfate. Remove the solvents under reduced pressure and purify the residue by flash column chromatography on silica gel to provide the title compound.

reactant | sodium hydride | [H-].[Na+]
reactant | isopropyl 7-bromo-5-(3-methylisothiazol-5-ylamino)-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | BrC1=CC2=C(N(CCCC2NC2=CC(=NS2)C)C(=O)OC(C)C)C=C1 | C18H22BrN3O2S
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+/−)-Isopropyl 5-[(3,5-bistrifluoromethylbenzyl)-(3-methylisothiazol-5-yl)amino]-7-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | FC(C=1C=C(CN(C2C3=C(N(CCC2)C(=O)OC(C)C)C=CC(=C3)Br)C3=CC(=NS3)C)C=C(C1)C(F)(F)F)(F)F | C27H26BrF6N3O2S
